US06414144B1
C. (2R)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)Amino]-Propanoic Acid
Following the procedure of method 1D, methyl (2R)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate (2.7 mmol, 0.77 g) was hydrolyzed to the acid using 1 M aqueous lithium hydroxide (5.9 mL) in THF (20 mL) to yield an orange oil which was used without further purification.

reactant | methyl (2R)-2-[(1,2,3,3a,4,8b-hexahydrocyclopenta[b]indol-5-ylcarbonyl)amino]propanoate | 2.7 mmol, 0.77 g | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@@H](C(=O)OC)C | C16H20N2O3
reactant | lithium hydroxide | 1 M, 5.9 mL | [OH-].[Li+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2R)-2-[(1,2,3,3a,4,8b-Hexahydrocyclopenta[b]Indol-5-ylcarbonyl)Amino]-Propanoic Acid | C1CCC2NC=3C(=CC=CC3C21)C(=O)N[C@@H](C(=O)O)C | C15H18N2O3
